US05217964
Step d: 1,15-Bis(4-methylthiophenyl)-1,5,11,15-tetra(t-butyloxycarbonyl)-1,5,11,15-tetraazapentadecane
Suspend sodium hydride (48 mg, 2 mmol) in anhydrous dimethylformamide (2 mL), cool to 0° C. and place under a nitrogen atmosphere. Add, by dropwise addition, a solution 1-(4-methylthiophenyl)-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane (1.58 g, 4 mmol) in dimethylformamide (2 mL). Stir until evolution of hydrogen ceases. Add, by dropwise addition, a solution of 1,5-dibromopentane (460 mg, 2 mmol) in dimethylformamide (2 mL). Stir overnight at room temperature then carefully quench with saturated ammonium chloride. Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatogaphy to give the title compound.

reactant | sodium hydride | 2 mmol, 48 mg | [H-].[Na+]
reactant | 1-(4-methylthiophenyl)-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane | 4 mmol, 1.58 g | CSC1=CC=C(C=C1)N(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H32N2O4S
reactant | hydrogen | [H][H] | H2
reactant | 1,5-dibromopentane | 2 mmol, 460 mg | BrCCCCCBr | C5H10Br2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1,15-Bis(4-methylthiophenyl)-1,5,11,15-tetra(t-butyloxycarbonyl)-1,5,11,15-tetraazapentadecane | CSC1=CC=C(C=C1)N(CCCN(CCCCCN(CCCN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)SC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C45H72N4O8S2
